US07576242B2
8.27 g (20.5 mmol) of tris(pentafluoroethyl)phosphine oxide, (C2F5)3P═O, are mixed with 20 cm3 of dry benzene and 1.67 g (20.3 mmol) of N-methylimidazole in a flask fitted with a reflux condenser held at minus 25° C. 4.37 g (20.4 mmol) of 3,3,4,4,5,5,5-heptafluoropentan-1-ol are added to this mixture at room temperature while stirring using a magnetic stirrer. The reaction mixture is heated at an oil-bath temperature of 100° C. for 20 minutes. After cooling to room temperature, the phosphinate is separated from the benzene phase and washed twice with 10 cm3 of benzene. Drying at 60° C. (2 hours) under a vacuum of 13.3 Pa gives 11.55 g of 1-(3,3,4,4,5,5,5-heptafluoropentyl)-3-methylimidazolium bis(pentafluoroethyl)phosphinate as liquid. The yield is 97.5%.

reactant | tris(pentafluoroethyl)phosphine oxide | 20.5 mmol, 8.27 g | FC(C(F)(F)F)(F)P(C(C(F)(F)F)(F)F)(C(C(F)(F)F)(F)F)=O | C6F15OP
reactant | (C2F5)3P | P(C(F)(F)C(F)(F)F)(C(F)(F)C(F)(F)F)C(F)(F)C(F)(F)F | C6F15P
reactant | N-methylimidazole | 20.3 mmol, 1.67 g | CN1C=NC=C1 | C4H6N2
reactant | 3,3,4,4,5,5,5-heptafluoropentan-1-ol | 20.4 mmol, 4.37 g | FC(CCO)(C(C(F)(F)F)(F)F)F | C5H5F7O
solvent | benzene | 20 cm3 | C1=CC=CC=C1 | C6H6
product | 1-(3,3,4,4,5,5,5-heptafluoropentyl)-3-methylimidazolium bis(pentafluoroethyl)phosphinate | 11.55 g, yield is 97.5% | FC(C(F)(F)F)(F)P([O-])(=O)C(C(F)(F)F)(F)F.FC(CC[N+]1=CN(C=C1)C)(C(C(F)(F)F)(F)F)F | InChI=1S/C9H10F7N2.C4HF10O2P/c1-17-4-5-18(6-17)3-2-7(10,11)8(12,13)9(14,15)16;5-1(6,7)3(11,12)17(15,16)4(13,14)2(8,9)10/h4-6H,2-3H2,1H3;(H,15,16)/q+1;/p-1
